US05981533
With the exclusion of air and moisture, there is added to a suspension of 203 mg of AlCl3 in 2.5 ml of absolute benzene a solution of 100 mg of 1-benzyl-3,4-diphenylamino-pyrazolo[3,4-d]pyrimidine in 2.5 ml of absolute benzene. The reaction mixture is stirred for 1.5-2 hours at 50° C. until, according to thin-layer chromatography, no starting material remains and is then stirred in approx. 30 ml of water. The precipitate is filtered off and dissolved in ethyl acetate. The ethyl acetate phase is washed several times with 5% aqueous sodium hydrogen carbonate solution and then with saturated sodium chloride solution, dried and concentrated to dryness by evaporation. The residue is crystallized from ethyl acetate/hexane, yielding 3,4-diphenylamino-1H-pyrazolo[3,4-d]pyrimidine in the form of colorless crystals, m.p. 263-264° C., FAB-MS: (M+H)+ =303 (C17H14N6).

reactant | AlCl3 | 203 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1-benzyl-3,4-diphenylamino-pyrazolo[3,4-d]pyrimidine | 100 mg | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2NC2=CC=CC=C2)NC2=CC=CC=C2 | C24H20N6
solvent | benzene | 2.5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 2.5 ml | C1=CC=CC=C1 | C6H6
solvent | water | approx. 30 ml | O | H2O
product | 3,4-diphenylamino-1H-pyrazolo[3,4-d]pyrimidine | C1(=CC=CC=C1)NC1=NNC2=NC=NC(=C21)NC2=CC=CC=C2 | C17H14N6
